US08895572B2
Step A: tert-Butyl [(3S,5S)-5-(2,3-difluorophenyl)-2-hydrazinylidenepiperidin-3-yl]carbamate
To a solution of tert-butyl [(3S,5S)-5-(2,3-difluorophenyl)-2-thioxopiperidin-3-yl]carbamate (100 mg, 0.29 mmol) in methanol (2.9 mL) was added hydrazine hydrate (55%, 780 μL, 8.76 mmol). The mixture was stirred 40 min, and then concentrated. Water was added, and the mixture was extracted with ethyl acetate (×3). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated to give the crude title compound. MS 341.2 (M+1).

reactant | tert-butyl [(3S,5S)-5-(2,3-difluorophenyl)-2-thioxopiperidin-3-yl]carbamate | 0.29 mmol, 100 mg | FC1=C(C=CC=C1F)[C@@H]1C[C@@H](C(NC1)=S)NC(OC(C)(C)C)=O | C16H20F2N2O2S
reactant | hydrazine hydrate | 8.76 mmol, 780 μL | O.NN
solvent | methanol | 2.9 mL | CO | CH4O
product | tert-Butyl [(3S,5S)-5-(2,3-difluorophenyl)-2-hydrazinylidenepiperidin-3-yl]carbamate | FC1=C(C=CC=C1F)[C@@H]1C[C@@H](C(NC1)=NN)NC(OC(C)(C)C)=O | C16H22F2N4O2
